US05187175
[4,6-Bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl](2-thiazolyl)methanone
To a solution of diisopropylamine (0.39 mL, 4.2 mmol) in tetrahydrofuran (8 mL) at -78° C. under nitrogen atmosphere is added a 2.1M solution of n-butyllithium (2.0 mL, 4.2 mmol) in cyclohexane. This mixture is stirred at -78° C. for 1 hour and thiazole (0.3 mL, 4.2 mmol) added. After stirring 1 hour at -78° C., the reaction mixture is warmed to ~0° C. and stirred 0.5 hours. The mixture is cooled to -78° and 4,6-bis(1,1-dimethylethyl)-5-hydroxy-N-methoxy-N-methyl-2-pyrimidinecarboxamide (0.50 g, 1.7 mmol) in a mixture of tetrahydrofuran (5 mL) and N,N,N'N'-tetramethylethylenediamine (2 mL). After stirring 1 hour at 78° C., the resulting mixture is warmed to room temperature and stirred 16 hours. The mixture is then quenched with aqueous ammonium chloride solution and extracted with ethyl acetate. The combined extracts are washed with water and brine. The organic phase is dried over magnesium sulfate and concentrated under vacuum. The organic residue is purified by flash chromatography (SiO2, 10% methanol/dichloromethane) followed by recrystallization from ethyl acetate and hexane to give 0.30 g (53%) of the title compound, mp 181°-184° C.

reactant | diisopropylamine | 4.2 mmol, 0.39 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 4.2 mmol, 2.0 mL | C(CCC)[Li]
reactant | thiazole | 4.2 mmol, 0.3 mL | S1C=NC=C1 | C3H3NS
reactant | 4,6-bis(1,1-dimethylethyl)-5-hydroxy-N-methoxy-N-methyl-2-pyrimidinecarboxamide | 1.7 mmol, 0.50 g | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C(=O)N(C)OC | C15H25N3O3
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | [4,6-Bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl](2-thiazolyl)methanone | 0.30 g, 53% | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C(=O)C=1SC=CN1 | C16H21N3O2S
